US08304419B2
5-Amino-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide trifluoroacetate (0.100 g, 0.213 mmol) was treated with N-{[(1,1-dimethylethyl)oxy]carbonyl}-β-alanine (0.040 g, 0.213 mmol), DIPEA (0.19 mL, 1.07 mmol) and bis(2-oxo-3-oxazolidinyl)phosphinic chloride (0.163 g, 0.639 mmol) in a similar manner as in the general procedure described herein to afford crude 1,1-dimethylethyl {3-[(2-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-indol-5-yl)amino]-3-oxopropyl}carbamate as a yellow solid. This crude material (0.027 g, 0.042 mmol) was suspended in dichloromethane (1 mL) and treated with trifluoroacetic acid (0.25 mL, 3.24 mmol) at RT for 1 h. The solvent was evaporated and the residue was purified by Reverse-Phase HPLC (water/acetonitrile with 0.1% TFA) to give the title compound (0.017 g, 62%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.59 (s, 1H), 10.01 (s, 1H), 9.00 (s, 1H), 7.97 (s, 1H), 7.82 (s, 1H), 7.63-7.79 (m, 2H), 7.44-7.57 (m, 2 H), 7.31-7.44 (m, 1H), 7.22-7.31 (m, 1H), 7.11 (s, 1H), 4.57 (s, 2H), 2.94-3.19 (m, 2H), 2.62-2.77 (m, 2H). MS: m/z 540 (M+1).

reactant | 5-Amino-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide trifluoroacetate | 0.213 mmol, 0.100 g | FC(C(=O)O)(F)F.NC=1C=C2C=C(NC2=CC1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F
reactant | N-{[(1,1-dimethylethyl)oxy]carbonyl}-β-alanine | 0.213 mmol, 0.040 g | CC(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | DIPEA | 1.07 mmol, 0.19 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.639 mmol, 0.163 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
product | 1,1-dimethylethyl {3-[(2-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-indol-5-yl)amino]-3-oxopropyl}carbamate | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=CC=C(C=C2C1)NC(CCNC(OC(C)(C)C)=O)=O)F)OC1=CC(=CC(=C1)C#N)Cl | C31H28Cl2FN5O5
